US05414001
3-Methoxybenzyl bromide
A solution of 270 ul of 3-methoxybenzyl alcohol in 2.5 ml of dry tetrahydrofuran is cooled to 0° C. and 120 ul PBr3 added, followed by stirring for three hours. The reaction mixture is extracted with ether and the organic layer washed with saturated sodium bicarbonate and evaporated to give the desired product.

reactant | 3-methoxybenzyl alcohol | 270 ul | COC=1C=C(CO)C=CC1 | C8H10O2
reactant | PBr3 | 120 ul | P(Br)(Br)Br | Br3P
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
product | 3-Methoxybenzyl bromide | COC=1C=C(CBr)C=CC1 | C8H9BrO
